US08461159B2
To a solution of 1-[3-(4-chloro-phenoxy)-benzyl]-piperazine hydrochloride (62.3 mg, 0.166 mmol) and diisopropylethylamine (53.7 mg, 0.416 mmol) in DMSO (2.0 mL) was added imidazo[1,2-b]pyridazin-3-yl-carbamic acid phenyl ester (42.1 mg, 0.166 mmol). The reaction mixture was stirred at 50° C. for 16 h, then diluted with EtOAc (40 mL) and washed with saturated aqueous NaHCO3 (40 mL). The organic layer was dried (MgSO4) and concentrated. The crude residue was purified (FCC, 2 N NH3 in MeOH/DCM) to give 4-[3-(4-chloro-phenoxy)-benzyl]-piperazine-1-carboxylic acid imidazo[1,2-b]pyridazin-3-ylamide (67.1 mg, 87%). MS (ESI+): calcd for C24H23ClN6O2 m/z 462.16. found 463.5 (M+H)+. 1H NMR (d6-DMSO): 8.74 (s, 1H), 8.50 (dd, J=4.4, 1.3, 1H), 8.05 (dd, J=9.1, 1.3, 1H), 7.64 (s, 1H), 7.44 (d, J=9.0, 2H), 7.38 (t, J=7.8, 1H), 7.19-7.12 (m, 2H), 7.04 (d, J=9.0, 2H), 7.01 (br s, 1H), 6.95-6.92 (m, 1H), 3.53 (s, 2H), 3.50-3.45 (m, 4H), 2.43-2.37 (m, 4H).

reactant | 1-[3-(4-chloro-phenoxy)-benzyl]-piperazine hydrochloride | 0.166 mmol, 62.3 mg | Cl.ClC1=CC=C(OC=2C=C(CN3CCNCC3)C=CC2)C=C1
reactant | diisopropylethylamine | 0.416 mmol, 53.7 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | imidazo[1,2-b]pyridazin-3-yl-carbamic acid phenyl ester | 0.166 mmol, 42.1 mg | C1(=CC=CC=C1)OC(NC1=CN=C2N1N=CC=C2)=O | C13H10N4O2
solvent | DMSO | 2.0 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | 4-[3-(4-chloro-phenoxy)-benzyl]-piperazine-1-carboxylic acid imidazo[1,2-b]pyridazin-3-ylamide | 67.1 mg, 87% | N=1C=C(N2N=CC=CC21)NC(=O)N2CCN(CC2)CC2=CC(=CC=C2)OC2=CC=C(C=C2)Cl | C24H23ClN6O2
